US08431695B2
5-(2-benzyl-2H-indazol-6-yl)-7-{1-[(dimethylamino)acetyl]azetidin-3-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
A mixture of 7-azetidin-3-yl-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (20 mg, 0.051 mmol), N,N-dimethylglycine (5.7 mg, 0.056 mmol), EDCl (11.6 mg, 0.061 mmol), HOBt (8.2 mg, 0.061 mmol), and N,N-diisopropylethylamine (26 μL, 0.15 mmol) in DMF (1 mL) was stirred at rt for 16 h. The crude reaction mixture was purified via preparative HPLC using a gradient elution from 15% to 45% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated to provide 5 mg (21%) of the desired product. 1H NMR (400 MHz, CD3OD) δ 8.37 (s, 1 H), 7.79-7.85 (m, 2 H), 7.67 (s, 1 H), 7.29-7.37 (m, 5 H), 7.25 (d, 1 H), 6.81 (s, 1 H), 5.65 (s, 2 H), 4.70 (t, 1 H), 4.25-4.54 (m, 4 H), 3.18 (s, 2 H), 2.38 (s, 6 H); ES-MS m/z 481.10 [M+H]+, HPLC RT (min) 2.07.

reactant | 7-azetidin-3-yl-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.051 mmol, 20 mg | N1CC(C1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C23H21N7
reactant | N,N-dimethylglycine | 0.056 mmol, 5.7 mg | CN(CC(=O)O)C | C4H9NO2
reactant | EDCl | 0.061 mmol, 11.6 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.061 mmol, 8.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.15 mmol, 26 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-(2-benzyl-2H-indazol-6-yl)-7-{1-[(dimethylamino)acetyl]azetidin-3-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 5 mg, 21% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(C2)C(CN(C)C)=O | C27H28N8O
